US07750017B2
Step 5. Preparation of ethyl (4-oxo-3,4,5,6,7,8-hexahydro[1]benzothieno[2,3-d]pyrimidin-7-yl)acetate
Formamide (310 mL) was added to ethyl 2-amino-6-(2-ethoxy-2-oxoethyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylate (61.2 g, 197 mmol) and the biphasic mixture was heated at 180° C. in an oil bath overnight. The heat was turned off and the reaction solution was allowed to cool. At 60° C., the reaction mixture was seeded and lots of solid quickly precipitated. Upon reaching room temperature the reaction mixture was filtered (very slowly), and rinsed with water (2×150 mL). The damp solid was placed in a vacuum oven and dried at 50° C. overnight to yield a light tan solid (39.3 g, 68.4%). 1H NMR (DMSO-d6) δ 12.31 (s, 1H), 7.99 (s, 1H), 4.09 (q, 2H), 3.06 (m, 1H), 2.87 (m, 1H), 2.75 (m, 1H), 2.40 (m, 3H), 2.19 (m, 1H), 1.89 (m, 1H), 1.47 (m, 1H), 1.19 (t, 3H); LCMS RT=2.40 min, [M+H]+=293.1.

reactant | ethyl 2-amino-6-(2-ethoxy-2-oxoethyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylate | 197 mmol, 61.2 g | NC=1SC2=C(C1C(=O)OCC)CCC(C2)CC(=O)OCC | C15H21NO4S
reactant | Formamide | 310 mL | C(=O)N | CH3NO
product | ethyl (4-oxo-3,4,5,6,7,8-hexahydro[1]benzothieno[2,3-d]pyrimidin-7-yl)acetate | 39.3 g, 68.4% | O=C1C2=C(N=CN1)SC1=C2CCC(C1)CC(=O)OCC | C14H16N2O3S
